US07067517B2
Methyl-phenyl-carbamic acid 4-[(4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carbonyl)-amino]-phenyl ester
The title product was prepared from 4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxylic acid (4-hydroxy-phenyl)-amide and N-methyl-N-phenylcarbamoyl chloride (5%,). HPLC-MS: m/z=430.1 (M+1); Rt: 4.80 min, purity: 70%.

reactant | 4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carboxylic acid (4-hydroxy-phenyl)-amide | OC1=CC=C(C=C1)NC(=O)C=1C(NC2=CC=CC=C2C1O)=O | C16H12N2O4
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-[(4-hydroxy-2-oxo-1,2-dihydro-quinoline-3-carbonyl)-amino]-phenyl ester | OC1=C(C(NC2=CC=CC=C12)=O)C(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C24H19N3O5
